US07956064B2
Sodium azide (65 mg, 1 mmol) and ammonium chloride (53 mg, 1 mmol) were added to a crude mixture of the 5-(phenylamino)benzo[c][2,6]naphthyridine-8-carbonitrile (25 mg, 0.084 mmol) in dimethylformamide (0.2 mL). The mixture was heated for 18 h at 120° C. at which time LCMS analysis indicated the absence of any starting material. The mixture was diluted with water and purified by preparative HPLC to give N-phenyl-8-(1H-tetrazol-5-yl)benzo[c][2,6]naphthyridin-5-amine (14 mg). LCMS (ESI) 340.3 (M+1)+. 1HNMR (400 MHz, CD3OD) 10.11 (1H, s), 8.96 (1H, d, 5.9 Hz), 8.85 (1H, d, 8.2 Hz), 8.53 (1H, d, 5.5 Hz), 8.47 (1H, s), 8.16 (1H, d, 8.6 Hz), 7.88 (1H, s), 7.86 (1H, d, 0.8 Hz), 7.57-7.51 (3H, m), 7.36-7.31 (2H, m).

reactant | Sodium azide | 1 mmol, 65 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1 mmol, 53 mg | [Cl-].[NH4+]
reactant | 5-(phenylamino)benzo[c][2,6]naphthyridine-8-carbonitrile | 0.084 mmol, 25 mg | C1(=CC=CC=C1)NC1=NC2=C(C3=CN=CC=C13)C=CC(=C2)C#N | C19H12N4
solvent | dimethylformamide | 0.2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-phenyl-8-(1H-tetrazol-5-yl)benzo[c][2,6]naphthyridin-5-amine | 14 mg | C1(=CC=CC=C1)NC1=NC2=C(C3=CN=CC=C13)C=CC(=C2)C2=NN=NN2 | C19H13N7
